US09371333B2
2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-1-oxa-10-aza-phenanthrene-3-carbonitrile (36)
3-Hydroxyisoquinoline (638 mg, 4.4 mmol), 5-bromo-3,4-dimethoxy-benzaldehyde (1.077 mg, 4.4 mmol) and malononitrile (295 mg, 4.4 mmol) were taken in 40 ml ethanol at room temperature, charged with DABCO (48.4 μl, 1.46 mmol) and then stirred at 80° C. under LC-MS control for 24 h. The reaction mixture was cooled down to room temperature, diluted with water to about 100 ml and the precipitates were collected by filtration, washed well with 50% aqueous ethanol and dried under vacuum to yield the title compound (1.35 g, 3.08 mmol, 70%).

reactant | 3-Hydroxyisoquinoline | 4.4 mmol, 638 mg | OC=1N=CC2=CC=CC=C2C1 | C9H7NO
reactant | 5-bromo-3,4-dimethoxy-benzaldehyde | 4.4 mmol, 1.077 mg | BrC=1C(=C(C=C(C=O)C1)OC)OC | C9H9BrO3
reactant | malononitrile | 4.4 mmol, 295 mg | C(CC#N)#N | C3H2N2
reactant | DABCO | 1.46 mmol, 48.4 μl | C1CN2CCN1CC2 | C6H12N2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 2-Amino-4-(3-bromo-4,5-dimethoxy-phenyl)-4H-1-oxa-10-aza-phenanthrene-3-carbonitrile | 3.08 mmol, 1.35 g, 70% | NC=1OC=2N=CC3=CC=CC=C3C2C(C1C#N)C1=CC(=C(C(=C1)OC)OC)Br | C21H16BrN3O3
